US07695728B2
Ac) 3-(2-Chloro-6-fluorophenyl)-2,4-dichloro-6-([1,2,4]triazol-1-yl)pyridine
0.42 g (11.0 mmol) of 60% sodium hydride in paraffin was added a little at a time to 3.00 g (9.6 mmol) of 3-(2-chloro-6-fluorophenyl)-2,4,6-trichloropyridine and 0.70 g (9.6 mmol) of [1,2,4]triazole dissolved in 30 ml of dimethylformamide. The mixture was stirred at room temperature for 3 d, added to 50 ml of sodium dihydrogenphosphate solution, extracted three times with in each case 50 ml of methyl tert-butyl ether, dried over sodium sulfate and concentrated under reduced pressure. The crude product was chromatographed on silica gel using cyclohexane/ethyl acetate. Yield 1.5 g of a colorless solid of m.p. 210° C.

reactant | sodium hydride | 11.0 mmol, 0.42 g | [H-].[Na+]
reactant | 3-(2-chloro-6-fluorophenyl)-2,4,6-trichloropyridine | 9.6 mmol, 3.00 g | ClC1=C(C(=CC=C1)F)C=1C(=NC(=CC1Cl)Cl)Cl | C11H4Cl4FN
reactant | [1,2,4]triazole | 9.6 mmol, 0.70 g | N1N=CN=C1 | C2H3N3
reactant | sodium dihydrogenphosphate | 50 ml | P(=O)(O)(O)[O-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(2-Chloro-6-fluorophenyl)-2,4-dichloro-6-([1,2,4]triazol-1-yl)pyridine | ClC1=C(C(=CC=C1)F)C=1C(=NC(=CC1Cl)N1N=CN=C1)Cl | C13H6Cl3FN4
